US07199150B2
To a solution of 3-bromophenol (15.0 g, 86.7 mmol), 2-cyclohexylethylphenol (12.0 ml, 86.7 mmol) and triphenylphosphine (23.0 g, 86.7 mmol) in tetrahydrofuran (200 ml) was added slowly a 40% solution of diethyl azodicarboxylate in toluene (38.0 ml, 86.7 mmol) in portions at 0° C. with stirring, and then the resulting mixture was stirred at room temperature for 7 hours. After stirring, the reaction mixture was evaporated in vacuo, and hexane was added to the residue. After filtration, the filtrate was evaporated in vacuo once again, and the residue was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (1:100) as the eluent to afford 1-bromo-3-(2-cyclohexylethoxy)benzene (23.0 g, yield: 94%).

reactant | 3-bromophenol | 86.7 mmol, 15.0 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | 2-cyclohexylethylphenol | 86.7 mmol, 12.0 ml | C1(CCCCC1)CCC1=C(C=CC=C1)O | C14H20O
reactant | triphenylphosphine | 86.7 mmol, 23.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | toluene | 86.7 mmol, 38.0 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1-bromo-3-(2-cyclohexylethoxy)benzene | 23.0 g, yield: 94% | BrC1=CC(=CC=C1)OCCC1CCCCC1 | C14H19BrO
